US04243819
Two grams of α-bromoisovaleric acid (0.001 mole) dissolved in 10 ml of methanol is titrated to the phenolphthalein end point at 0° with 2 N sodium hydroxide/methanol. The alcohol is then removed and 10 ml of dimethylformamide and p-trifluoromethylaniline (3.54 g, 0.022 mole) added. The reaction mixture is heated at 100° for 2 hours and left at room temperature about 18 hours. The reaction mixture is poured into 50 ml of 0.1 N sodium hydroxide, washed with ether and the aqueous phase adjusted to pH 4 with conc. HCl and then extracted with chloroform (3X). The extracts are combined and washed with brine, dried, concentrated in a rotoevaporator and solvent removed under vacuum at about 50° to yield N-(p-trifluoromethylphenyl)valine.

reactant | α-bromoisovaleric acid | 0.001 mole, Two grams | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | sodium hydroxide methanol | 2 N | [OH-].[Na+].CO
reactant | p-trifluoromethylaniline | 0.022 mole, 3.54 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | sodium hydroxide | 0.1 N, 50 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(p-trifluoromethylphenyl)valine | FC(C1=CC=C(C=C1)N[C@@H](C(C)C)C(=O)O)(F)F | C12H14F3NO2
